US06235731B1
Concentrated hydrochloric acid (1.5 ml) was added to a stirred solution of N-[1-[3-(4-cyanophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide (298 mg, 0.672 mmol) in ethanol (4.0 ml) at room temperature. After stirring at room temperature for 1 hour, the reaction mixture was concentrated in vacuo to give N-[1-[3-(4-cyanophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride as an orange amorphous powdeer (324 mg, 93%).

reactant | hydrochloric acid | 1.5 ml | Cl | ClH
reactant | N-[1-[3-(4-cyanophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 0.672 mmol, 298 mg | C(#N)C1=CC=C(C=C1)CCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H25N5OS
solvent | ethanol | 4.0 ml | C(C)O | C2H6O
product | N-[1-[3-(4-cyanophenyl)propan-1-yl]piperidin-4-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C(#N)C1=CC=C(C=C1)CCCN1CCC(CC1)NC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C25H25N5OS.2ClH/c26-16-19-8-6-18(7-9-19)3-2-12-29-13-10-20(11-14-29)28-25(31)22-15-21-17-27-23-4-1-5-24(32-22)30(21)23;;/h1,4-9,15,17,20H,2-3,10-14H2,(H,28,31);2*1H
